Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough, fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with remote hx of sarcoidosis, thyroiditis presenting
with cough, after being found down by a neighbor.

History is obtained from review of ED records, as pt does not
recall details. She apparently was found in a hallway in her
apartment, EMS was called. She recalls that she did not want to
go the hospital for further evaluation. She recalls going 
grocery
shopping on ___ morning (___), drank tea, then went to
___. She has difficulty providing a linear history.
Apparently 1 month prior to presentation, she felt "lousy," and
was diagnosed with a "stomach virus" by a practitioner of 
___
Medicine. Herbs were administered, and pt was instructed to use 
a
tool similar to a Netipot to improve congestion. She has had
cough x3 weeks, productive only of a little yellow, nonbloody
sputum, and only when using Netipot to mobilize secretions and 
in
the mornings. Denies chest pain. She did not check her
temperature at home, and is unsure if she had subjective fevers
because her apartment is "overheated." She has lost ___ lbs over
the past month, unintentionally, in setting of reduced PO intake
with feeling unwell.

In the ___ ED:
VS 105.8->100.0, 92, 110/60, 100% RA->100% 2L
Exam notable for
Labs notable for WBC 10.0, Hb 10.1, Plt 190, Na ___lood, trace leuk esterase, no pyuria, 1 epi
Influenza negative
Sent BCx, UCx, urine legionella

CXR with RLL infiltrate

Received:
Tylenol, vanc/zosyn/azithromycin

On arrival to the floor, pt feels unwell because she wants to go
home! She denies chest pain.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
pancytopenia f/b Dr. ___. no need for f/u unless change 
microscopic hematuria f/b Dr. ___ (neg w/u)
osteoporosis (refuses bisphosphonates)
sarcoidosis dx'd ___, no tx since ___
thyroiditis in ___, ___ has been nl
 
Social History:
___
Family History:
Mother with CLL, died in ___, after
complications of a fall, also had IBS. 
 
Physical Exam:
VS: 97.9PO 111/63 93 18 95 2L NC -> 98% RA
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes
NECK/LYMPH: no anterior/posterior cervical, supraclavicular
adenopathy, no nuchal rigidity
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: R basilar rhonchi without egophany, no wheeze, good air
movement throughout
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel
sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: alert and oriented to person, place, year, month, 
believes
that it is the ___ (it is the ___, strength and sensation
grossly intact, tangential
PSYCH: normal mood and affect
 
Pertinent Results:
___ 09:39PM BLOOD WBC-10.0 RBC-3.31* Hgb-10.1* Hct-30.7* 
MCV-93# MCH-30.5 MCHC-32.9 RDW-12.8 RDWSD-43.8 Plt ___
___ 06:05AM BLOOD WBC-6.6 RBC-2.78* Hgb-8.5* Hct-25.5* 
MCV-92 MCH-30.6 MCHC-33.3 RDW-12.8 RDWSD-42.7 Plt ___
___ 09:39PM BLOOD Neuts-82.2* Lymphs-7.0* Monos-9.9 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.19* AbsLymp-0.70* 
AbsMono-0.99* AbsEos-0.02* AbsBaso-0.02
___ 09:39PM BLOOD Plt ___
___ 06:05AM BLOOD Plt ___
___ 09:39PM BLOOD Ret Aut-1.6 Abs Ret-0.05
___ 09:39PM BLOOD Glucose-134* UreaN-12 Creat-0.7 Na-132* 
K-4.2 Cl-93* HCO3-21* AnGap-18
___ 06:05AM BLOOD Glucose-156* UreaN-9 Creat-0.6 Na-141 
K-4.3 Cl-102 HCO3-24 AnGap-15
___ 09:39PM BLOOD Calcium-8.4 Phos-1.9* Mg-1.9 Iron-PND
___ 06:05AM BLOOD Calcium-8.1* Phos-3.0 Mg-2.1
___ 08:55AM BLOOD %HbA1c-5.5 eAG-111

___ 09:39PM BLOOD TSH-PND
___ 09:39PM BLOOD Ferritn-PND TRF-PND

CXR ___   
IMPRESSION:  
Diffuse severe chronic changes of the lungs with increased 
opacity in the 
right upper and right lower lobe, concerning for mucous 
impaction and possible right lower lobe pneumonia given clinical 
history. 

 
Brief Hospital Course:
Assessment/Plan: ___ with remote hx of sarcoidosis, thyroiditis
presenting with community acquired pneumonia (CAP).

# CAP: Cough, fever, relative leukocytosis with neutrophilic
predominance, and RLL infiltrate all supports diagnosis of CAP.
No recent antibiotics or hospitalization. Influenza negative in
ED. She received vancomycin, zosyn, and azithromycin in the ED.  
Given her lack of risk factors, negative Legionella antigen, and 
resolution of hypoxemia, she received Azithromycin 250mg PO x1 
only on ___ AM and will complete an additional 3 days for a 
5-day course.  Final blood cultures are pending at the time of 
this dictation. Ambulatory SaO2 was normal without supplemental 
oxygen.  

# Hyponatremia: Likely ___ intravascular volume depletion in
setting of decreased PO intake and pneumonia. Resolved prior to 
discharge. TSH is pending at the time of discharge (she is very, 
very eager to leave the hospital this morning and was counseled 
about risks, understood, and agrees to see her PCP within ___ week 
or two of hospital discharge.  

# Anemia: Below baseline, normocytic. Underwent evaluation for
leukopenia and thrombocytopenia in the past, which was
unrevealing. Iron studies low but not all resulted at the time 
of discharge. She was given supplemental iron and told to see 
her PCP to discuss what if an additional steps would be 
beneficial.  I advised her to get a repeat colonoscopy since the 
one she had in ___ found polys and repeat was recommended in 
___. 

#Hyperglycemia - mild and with normal A1C. Likely from dextrose 
mixed with ABX which had IV infusion.

She is stable for discharge from the hospital.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin [Zithromax] 250 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0 
3.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*60 Tablet Refills:*3 
4.  Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community acquired pneumonia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with pneumonia which improved 
on antibiotics.  You were also found to have significant anemia 
(low red blood cell count) for which you will need to see your 
outpatient doctor to discuss next steps in understanding how to 
fix it.  

We wish you the best in your recovery, 
Your ___ Team 
 
Followup Instructions:
___